2149-12-22 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose, fever to 102.6
   24 Hour Events:
 INVASIVE VENTILATION - START [**2149-12-21**] 01:00 PM
 MULTI LUMEN - START [**2149-12-21**] 01:14 PM
 ARTERIAL LINE - START [**2149-12-21**] 01:28 PM
 EKG - At [**2149-12-21**] 01:32 PM
 EKG - At [**2149-12-21**] 03:00 PM
 EKG - At [**2149-12-21**] 04:00 PM
 FEVER - 102.6
F - [**2149-12-22**] 12:00 AM
   - Discrepency between patient's O2 sats (94% with good pleth) and pO2
   on gasses (137-160).  Went down cautiously on FiO2 to 50%.  At 4am PO2
   on gas went to 84 and pulse ox to mid 80s.  Increased FiO2 to 60 and
   then 100% (increased PEEP didn't help).  Next PO2 333 with O2 sats in
   the mid 90s.  ?met hemoglobinemia, but test difficult to run b/c of
   intralipid.  CXR looks increasingly congested.
   - Lab thinks that lipids may be depressing O2 sat.  Called toxicology,
   they will get back to us.
   - Continued on intralipid for 4 hours.
   - pH down to 7.47 at 10pm so started on D5 with 100mEq of bicarb at
   200ccs/hour.  pH 7.45 at 11pm.  then remained stable ~7.43, but without
   signs of QRS widening on EKG.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2149-12-21**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-22**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.2
C (100.7
   HR: 91 (65 - 94) bpm
   BP: 117/77(95) {85/48(12) - 159/97(121)} mmHg
   RR: 23 (0 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 12,121 mL
                                                                  1,437 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                  1,437 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    670 mL
   Urine:
                                                                  3,055 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,066 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.44/43/333/29/5
   Ve: 13.8 L/min
   PaO2 / FiO2: 333
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   432 K/uL
   15.6 g/dL
   132 mg/dL
   1.1 mg/dL
   29 mEq/L
   2.8 mEq/L
   8 mg/dL
   100 mEq/L
   146 mEq/L
   28.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2149-12-21**]  08:05 PM
                             [**2149-12-21**]  09:21 PM
                             [**2149-12-21**]  10:10 PM
                             [**2149-12-21**]  11:08 PM
                             [**2149-12-22**]  12:30 AM
                             [**2149-12-22**]  02:09 AM
                             [**2149-12-22**]  03:17 AM
                             [**2149-12-22**]  04:01 AM
                             [**2149-12-22**]  04:17 AM
                             [**2149-12-22**]  05:10 AM
   WBC
   15.3
   Hct
   28.0
   Cr
   1.1
   TCO2
   30
   32
   31
   30
   28
   28
   28
   30
   Glucose
   119
   132
   Other labs: PT / PTT / INR:13.6/29.7/1.1, Differential-Neuts:91.1 %,
   Lymph:5.6 %, Mono:3.0 %, Eos:0.2 %, Lactic Acid:5.5 mmol/L, Ca++:6.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR: increasing lower lobe opacities.
   Microbiology: Blood cx: pending
   ECG: Sinus rhythm w/ low voltages, normal QRS and prolonged QTC.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 POISONING / OVERDOSE, OTHER
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, lipid for improving volume of distribution.  No role for HD
   given volume of distribution
   - Appreciate tox recs.
   - Na bicarb prn to maintain pH > 7.45.
   - Keep K > 3 with supplemental (though does not need to be >4).
   - Given current pH, will hold bicarb for now.  Restart gtt when needed
   (3 amps at ~250 cc/hr - twice maintenance)
   - Continue intralipid infusion - 22.5 ml/min of 20% intralipid per tox.
   - Q1H ABG.
   - Q2H electrolytes.
   - Despite pH, avoid hypoventilation, as this let to clinical worsening
   in ED (VT rhythm appeared when RR decreased to 20).
   - Q1H ECG.
   - Seizure management.
   - Norepinephrine prn for hypotension (normotensive now, though commonly
   seen in TCA overdose).
   - Repeat 2 more doses of activated charcoal.
   .
   # Fevers: Ddx new infection, TCA overdose.  Has been hemodynamically
   stable w/o signs of hypotension/shock..
   .
   # Hypoxemia/impaired pulse oximetry: Unclear which [**Location (un) 118**] to trust.
   At least partly due to fluid overload.
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Started on propofol gtt.  Pressors if needed for hypotension.
   - TCA management as above.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia.  Precordial negative concordance and axis
   change most suspicious for VT.  Also consider sinus tach with QRS
   widening from TCAs.  VT can be seen severe TCA overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   # Respiratory failure.  Intubated in field due to mental status from
   med related CNS depression likely.
   - Keep current vent settings as above; no plan to wean until more
   medically stable.
   - Aline in place.
   .
   # Anion gap/lactic acidosis.  Likely related to TCA overdose, but by
   ?mechanism.  Was hypotensive at times during course, now normotensive.
   Lactate improving.
   - ABGs as above.
   - Fluid resuscitation prn.  Avoid further hypotension.  Pressors as
   needed for med-related hypotension.
   .
   # Hypernatremia.  Iatrogenic from multiple IV infusions of hypertonic
   fluids.
   - Monitor Q2H.
   .
   # Hypokalemia.  As above.  From extra to intracellular potassium shifts
   with alkalemic pH.
   - Replete to goal >3.
   .
   # Fever.  Upon arrival to MICU.  Blood cultures drawn in ED.  CXR
   without pneumonia and urine without WBCs.  Suspect central fever with
   above overdose.
   - f/u cultures.
   .
   FEN: replete electrolytes, NPO
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, L femoral CVL (confirmed with transducing)
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **]:
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-12-21**] 01:13 PM
   Multi Lumen - [**2149-12-21**] 01:14 PM
   Arterial Line - [**2149-12-21**] 01:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-12-22 09:07:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: TCA overdose, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2149-12-21**] 01:00 PM
 MULTI LUMEN - START [**2149-12-21**] 01:14 PM
 ARTERIAL LINE - START [**2149-12-21**] 01:28 PM
 EKG - At [**2149-12-21**] 01:32 PM
 EKG - At [**2149-12-21**] 03:00 PM
 EKG - At [**2149-12-21**] 04:00 PM
 FEVER - 102.6
F - [**2149-12-22**] 12:00 AM
   SpO2 vs pO2 discrepency, felt likely due to intralipid
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2149-12-21**] 01:00 PM
   Other medications:
   SQH
   SQI
   H2B
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-22**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.2
C (100.7
   HR: 94 (65 - 94) bpm
   BP: 101/65(79) {85/48(12) - 159/97(121)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 12,121 mL
                                                                  3,034 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                  3,034 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    730 mL
   Urine:
                                                                  3,055 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,066 mL
                                                                  2,304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.42/45/314/24/4
   Ve: 14.5 L/min
   PaO2 / FiO2: 314
   Physical Examination
   Sedated
   Tongue bitten
   Pupils symmetric
   Regular Heart
   Coarse breath sounds
   Protuberant abdomen but not tense
   Edema
   Labs / Radiology
   15.6 g/dL
   432 K/uL
   219 mg/dL
   1.1 mg/dL
   24 mEq/L
   2.9 mEq/L
   8 mg/dL
   105 mEq/L
   144 mEq/L
   28.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2149-12-21**]  09:21 PM
                             [**2149-12-21**]  10:10 PM
                             [**2149-12-21**]  11:08 PM
                             [**2149-12-22**]  12:30 AM
                             [**2149-12-22**]  02:09 AM
                             [**2149-12-22**]  03:17 AM
                             [**2149-12-22**]  04:01 AM
                             [**2149-12-22**]  04:17 AM
                             [**2149-12-22**]  05:10 AM
                             [**2149-12-22**]  06:35 AM
   WBC
   15.3
   Hct
   28.0
   Cr
   1.1
   TCO2
   30
   32
   31
   30
   28
   28
   28
   30
   30
   Glucose
   132
   219
   Other labs: PT / PTT / INR:13.6/29.7/1.1, ALT / AST:90/326, Alk Phos /
   T Bili:80/0.5, Differential-Neuts:91.1 %, Lymph:5.6 %, Mono:3.0 %,
   Eos:0.2 %, Lactic Acid:5.5 mmol/L, LDH:695 IU/L, Ca++:6.1 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   44-year-old woman with severe TCA overdose complicated by seizures, EKG
   abnormalities, episode of VT, and respiratory failure.
   TCA overdose
   Appreciate toxicology
s help.  Await full recs today.
   EKG now narrow
   Has received intralipid and aggressive alkalinization
   Now off of intralipid
   Anticipate reduction of alkalinization today, based on toxicology
   recommendations
   Follow frequent ABGs and EKGs today
   EEG today
   If arrest: push intralipid
   Wide complex tachycardia
   Received lidocaine.
   Currently NSR
   Difficulty monitoring labs
   Likely related to lipids
   Recheck labs now that she has been off for several hours
   Hypokalemia
   Alkalosis likely resulting in exaggeration of hypokalemia, goal >3
   Acute respiratory failure
   Leave intubated until acute TCA overdose resolved
   Leave Vt at present given fluctuating acid-base status (critical to TCA
   management)
   Check bladder pressure since PPlat 28
   Hyperlactemia
   Potentially due to cellular shifts from alkalemia
 recheck
   LFTs
   Follow for now, and check amylase/lipase
   Fever, probable VAP
   Check cultures (sputum, urine, blood)
   Treat for presumptive VAP, to cover MRSA and PSA.  Will give one [**Doctor Last Name **]
   for GNRs, since she is relatively early in course, high risk for
   quinolone, and presently relatively high risk for ATN
   EtOH use/depression
   will re-address once pt more stable
   ICU Care
   Nutrition: begin tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-12-21**] 01:13 PM
   Multi Lumen - [**2149-12-21**] 01:14 PM
   Arterial Line - [**2149-12-21**] 01:28 PM
   Will leave fem line in place today; potentially PICC tomorrow if
   stable.
   Prophylaxis:
   DVT: SQH
   Stress ulcer:  H2B
   VAP:  by protocol
   Comments:
   Communication:  Comments:  with husband.  Consult SW.
   Code status: Full
   Disposition : ICU
   Total time spent: 40 min

2149-12-23 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose
   24 Hour Events:
 EEG - At [**2149-12-22**] 10:00 AM
 URINE CULTURE - At [**2149-12-22**] 10:00 AM
 BAL FLUID CULTURE - At [**2149-12-22**] 10:00 AM
 EKG - At [**2149-12-22**] 06:00 PM
 FEVER - 102.0
F - [**2149-12-22**] 08:00 PM
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated, Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-22**] 10:00 AM
   Vancomycin - [**2149-12-22**] 11:30 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-12-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-12-22**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Weight loss
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2149-12-23**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.2
C (98.9
   HR: 75 (74 - 116) bpm
   BP: 116/62(85) {86/47(61) - 122/69(89)} mmHg
   RR: 24 (8 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  7,372 mL
                                                                  2,219 mL
   PO:
   TF:
   IVF:
                                                                  7,312 mL
                                                                  2,159 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    730 mL
   Urine:
                                                                  1,990 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,382 mL
                                                                  1,489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.58/29/116/29/6
   Ve: 13.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, sedated
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Lymphatic: No(t) Cervical adenopathy
   Cardiovascular: (PMI No(t) Hyperdynamic), (S1: No(t) Absent), (S2:
   No(t) Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Breath Sounds:
   Crackles : bilaterally, Rhonchorous: b/l)
   Abdominal: Soft, Bowel sounds present, not distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, No(t) Oriented (to): ,
   Movement: Purposeful, Sedated, Tone: Normal, b/l Babinski sign
   Labs / Radiology
   109 K/uL
   10.6 g/dL
   128 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.0 mEq/L
   5 mg/dL
   102 mEq/L
   136 mEq/L
   28.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2149-12-22**]  01:18 PM
                             [**2149-12-22**]  03:28 PM
                             [**2149-12-22**]  06:09 PM
                             [**2149-12-22**]  06:21 PM
                             [**2149-12-22**]  09:06 PM
                             [**2149-12-22**]  10:19 PM
                            [**2149-12-23**]  12:18 AM
                            [**2149-12-23**]  03:52 AM
                            [**2149-12-23**]  04:06 AM
                            [**2149-12-23**]  06:44 AM
   WBC
   11.1
   Hct
   28.5
   Plt
   109
   Cr
   0.9
   0.9
   TCO2
   25
   30
   32
   29
   32
   28
   33
   28
   Glucose
   117
   113
   102
   128
   Other labs: PT / PTT / INR:13.1/52.2/1.1, ALT / AST:75/190, Alk Phos /
   T Bili:78/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:2.1
   mmol/L, LDH:695 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan:
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   - Appreciate tox recs are as follows:
   -----continue q1 hour EKG
   -----wean sodium bicarb by 50% if QRS remains unchanged,
   -----if  QRS increases, do not wean sodium bicarb
   -----goal of QRS <130
   -----maintain pH  between 7.45 and 7.55.  If over 7.55 d/c sodium
   bicarb
   -----Keep K > 3 with supplemental (though does not need to be >4).
   -----dopamine and levophed for hypotension
   - Q2H ABG.
   - Q4H electrolytes.
   - Despite pH, avoid hypoventilation, as this let to clinical worsening
   in ED (VT rhythm appeared when RR decreased to 20).
   - Seizure management.
   - Consider intralipid if patient begins to not do well- 100 cc
   - Continue to follow Tox recs
   - Call PCP to discuss prescriptions written
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Started on propofol gtt.  Pressors if needed for hypotension.
   - Need to consult neurology for EEG read yesterday and whether or not
   we need repeat EEG or any antiseizure meds
   - TCA management as above.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia.  Precordial negative concordance and axis
   change most suspicious for VT.  Also consider sinus tach with QRS
   widening from TCAs.  VT can be seen severe TCA overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+)
   - vanc and cefipime continued
   - Keep current vent settings as above; no plan to wean until more
   medically stable.
   - Aline in place.
   .
   # Combined respiratory/metabolic alkalosis.  With superimposed
   metabolic acidosis due to TCAs and lactate.
   - Q1H ABG and lytes.
   - Vent changes prn.
   .
   # Anion gap/lactic acidosis.  Likely related to TCA overdose, but by
   ?mechanism.  Was hypotensive at times during course, now normotensive.
   Lactate improving.
   - ABGs as above.
   - Fluid resuscitation prn.  Avoid further hypotension.  Pressors as
   needed for med-related hypotension.
   .
   # Hypernatremia.  Iatrogenic from multiple IV infusions of hypertonic
   fluids.
   - Monitor Q2H.
   .
   # Hypokalemia.  As above.  From extra to intracellular potassium shifts
   with alkalemic pH.  Required 140meq overnight.
   - Replete to goal >3.
   .
   # Fever.  Upon arrival to MICU.  Blood cultures drawn in ED.  CXR
   without pneumonia and urine without WBCs.  Suspect central fever with
   above overdose.
   - f/u cultures.
   .
   FEN: replete electrolytes, tube feeds, bowel regime
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, L femoral CVL (confirmed with transducing). Change
   fem line to IJ today
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement

2149-12-24 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose
   24 Hour Events:
   Weaned off NaHCO3 drip yesterday afternoon
   Did not tolerate most recent SBT
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2149-12-23**] 08:00 AM
   Cefipime - [**2149-12-23**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-12-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: Tube feeds
   Signs or concerns for abuse
   Flowsheet Data as of  [**2149-12-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 90 (70 - 90) bpm
   BP: 111/67(86) {90/49(63) - 144/88(112)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 5%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,446 mL
                                                                    208 mL
   PO:
             TF:
                                                                    100 mL
                                                                    139 mL
   IVF:
                                                                  4,166 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  4,120 mL
                                                                    780 mL
   Urine:
                                                                  4,120 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                   -572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 5%
   ABG: 7.43/37/116/24/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: R 4mm >L 3mm pupil, reactive to light
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   104 K/uL
   9.8 g/dL
   108 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   9 mg/dL
   110 mEq/L
   140 mEq/L
   28.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2149-12-23**]  04:06 AM
                            [**2149-12-23**]  06:44 AM
                            [**2149-12-23**]  08:07 AM
                            [**2149-12-23**]  10:10 AM
                            [**2149-12-23**]  12:33 PM
                            [**2149-12-23**]  02:32 PM
                            [**2149-12-23**]  05:21 PM
                            [**2149-12-23**]  07:06 PM
                            [**2149-12-24**]  02:54 AM
                            [**2149-12-24**]  03:33 AM
   WBC
   11.0
   Hct
   28.0
   Plt
   104
   Cr
   0.7
   TCO2
   29
   30
   29
   30
   29
   27
   25
   Glucose
   108
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:75/190, Alk Phos /
   T Bili:78/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:2.1
   mmol/L, LDH:695 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.  Was
   weaned off NaCO3 drip yesterday afternoon because she continued  to
   maintain QRS <130
   - Appreciate tox recs are as follows:
   -----repeat serum TCA level
   -----discontinue sodium bicarbonate
   -----keep QRS <130; do q2hour EKG
   -----sodium bicarb for increasing QRS
   -----maintain pH  between 7.45 and 7.55
   -----Keep K > 3 with supplemental (though does not need to be >4).
   -----levophed for hypotension
   -----monitor for signs of anticholinergic syndrome
   - Q12H ABG.
   - Q6H electrolytes.
   - Despite pH, avoid hypoventilation, as this let to clinical worsening
   in ED (VT rhythm appeared when RR decreased to 20).
   - Seizure management.
   - Consider intralipid if patient begins to not do well- 100 cc
   - Continue to follow Tox recs
   - Call PCP to discuss prescriptions written
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Started on propofol gtt.  Pressors if needed for hypotension.
   - Need to consult neurology for EEG read and whether or not we need
   repeat EEG or any antiseizure meds
   - TCA management as above.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia.  Precordial negative concordance and axis
   change most suspicious for VT.  Also consider sinus tach with QRS
   widening from TCAs.  VT can be seen severe TCA overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+). Failed most recent SBT
   - vanc and cefipime continued until cultures are completed
   - Keep current vent settings as above; no plan to wean until more
   medically stable.
   - Aline in place.
   .
   # Combined respiratory/metabolic alkalosis.  With superimposed
   metabolic acidosis due to TCAs and lactate.
   - Q6H ABG and lytes.
   - Vent changes prn.
   .
   # Anion gap/lactic acidosis.  Likely related to TCA overdose, but by
   ?mechanism.  Was hypotensive at times during course, now normotensive.
   Lactate improving.
   - ABGs as above.
   - Fluid resuscitation prn.  Avoid further hypotension.  Pressors as
   needed for med-related hypotension.
   .
   # Hypokalemia.  As above.  From extra to intracellular potassium shifts
   with alkalemic pH.  Required 140meq overnight.
   - Replete to goal >3.
   - Monitor for hyperkalemia because K may begin to shift out of cells
   now that she is improving.
   -EKG, Cagluc, D5 and insulin, kayexelate for hyperkalemia
   .
   # Fever.  Upon arrival to MICU.  Blood cultures drawn in ED. [**Month (only) 8**] be due
   to OD vs VAP
   - f/u cultures.
   -continue antibiotics
   -tylenol and cooling blankets as needed.
   .
   FEN: replete electrolytes, tube feeds, bowel regimen
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, L femoral CVL (confirmed with transducing). Change
   fem line to IJ today
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement

2149-12-25 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose
   24 Hour Events:
   femoral line pulled
   failed SBT, put on pressure support
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-24**] 08:37 AM
   Vancomycin - [**2149-12-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-12-24**] 04:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2149-12-25**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 89 (73 - 89) bpm
   BP: 103/60(79) {93/48(66) - 124/72(94)} mmHg
   RR: 19 (14 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,537 mL
                                                                    360 mL
   PO:
             TF:
                                                                    626 mL
                                                                    235 mL
   IVF:
                                                                    791 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    660 mL
   Urine:
                                                                  3,550 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 382 (300 - 425) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/38/121/23/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: R pupil 4mm, L pupil 3mm
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   9.0 g/dL
   107 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   139 mEq/L
   27.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2149-12-23**]  10:10 AM
                            [**2149-12-23**]  12:33 PM
                            [**2149-12-23**]  02:32 PM
                            [**2149-12-23**]  05:21 PM
                            [**2149-12-23**]  07:06 PM
                            [**2149-12-24**]  02:54 AM
                            [**2149-12-24**]  03:33 AM
                            [**2149-12-24**]  03:19 PM
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
   WBC
   11.0
   8.7
   Hct
   28.0
   27.8
   Plt
   104
   101
   Cr
   0.7
   0.7
   TCO2
   30
   29
   30
   29
   27
   25
   24
   26
   Glucose
   108
   107
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:75/190, Alk Phos /
   T Bili:78/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:2.1
   mmol/L, LDH:695 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan:
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   - Appreciate tox recs are as follows:
   -----maintain pH  between 7.45 and 7.55.
   -----Keep K > 3.0 with supplemental (though does not need to be >4).
   ----- levophed for hypotension
   - Q12H ABG.
   - Q12H electrolytes.
   - Despite pH, avoid hypoventilation, as this let to clinical worsening
   in ED (VT rhythm appeared when RR decreased to 20).
   - Seizure management.
   - Consider intralipid if patient begins to not do well- 100 cc
   - Continue to follow Tox recs
   - Call PCP to discuss prescriptions written
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Started on propofol gtt.  Pressors if needed for hypotension.
   - Need to consult neurology for EEG read yesterday and whether or not
   we need repeat EEG or any antiseizure meds
   - TCA management as above.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia.  Precordial negative concordance and axis
   change most suspicious for VT.  Also consider sinus tach with QRS
   widening from TCAs.  VT can be seen severe TCA overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+)
   - vanc and cefipime continued
   - Keep current vent settings as above; no plan to wean until more
   medically stable.
   - Aline in place.
   .
   # Combined respiratory/metabolic alkalosis.  With superimposed
   metabolic acidosis due to TCAs and lactate.
   - Q1H ABG and lytes.
   - Vent changes prn.
   .
   # Anion gap/lactic acidosis.  Likely related to TCA overdose, but by
   ?mechanism.  Was hypotensive at times during course, now normotensive.
   Lactate improving.
   - ABGs as above.
   - Fluid resuscitation prn.  Avoid further hypotension.  Pressors as
   needed for med-related hypotension.
   .
   # Hypernatremia.  Iatrogenic from multiple IV infusions of hypertonic
   fluids.
   - Monitor Q2H.
   .
   # Hypokalemia.  As above.  From extra to intracellular potassium shifts
   with alkalemic pH.  Required 140meq overnight.
   - Replete to goal >3.
   .
   # Fever.  Upon arrival to MICU.  Blood cultures drawn in ED.  CXR
   without pneumonia and urine without WBCs.  Suspect central fever with
   above overdose.
   - f/u cultures.
   .
   FEN: replete electrolytes, tube feeds, bowel regime
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, L femoral CVL (confirmed with transducing). Change
   fem line to IJ today
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement

2149-12-25 11:58:00 Physician Attending Progress Note
Chief Complaint: TCA overdose, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI 135 this AM, agitated with decrease in sedation this AM
   ongoing copious secretions
   24 Hour Events:
 MULTI LUMEN - STOP [**2149-12-24**] 06:12 PM
   History obtained from Medical records, icu team
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-25**] 08:00 AM
   Vancomycin - [**2149-12-25**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-12-24**] 04:44 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-12-25**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 80 (74 - 99) bpm
   BP: 111/65(85) {85/48(66) - 139/79(104)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,537 mL
                                                                    869 mL
   PO:
             TF:
                                                                    626 mL
                                                                    389 mL
   IVF:
                                                                    791 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                  1,580 mL
   Urine:
                                                                  3,550 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 382 (300 - 425) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/38/121/23/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   101 K/uL
   107 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   139 mEq/L
   27.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2149-12-23**]  10:10 AM
                            [**2149-12-23**]  12:33 PM
                            [**2149-12-23**]  02:32 PM
                            [**2149-12-23**]  05:21 PM
                            [**2149-12-23**]  07:06 PM
                            [**2149-12-24**]  02:54 AM
                            [**2149-12-24**]  03:33 AM
                            [**2149-12-24**]  03:19 PM
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
   WBC
   11.0
   8.7
   Hct
   28.0
   27.8
   Plt
   104
   101
   Cr
   0.7
   0.7
   TCO2
   30
   29
   30
   29
   27
   25
   24
   26
   Glucose
   108
   107
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:75/190, Alk Phos /
   T Bili:78/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:2.1
   mmol/L, LDH:695 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 POISONING / OVERDOSE, OTHER
   44 yo woman s/p TCA overdose and respiratory failure
   1. TCA overdose: continue to monitor EKG, electrolytes
   2. Respiratory Failure: Ongoing secretions, infiltrate.  Cont
   vanc/cefepime --> hopefully will be able to extubate tomorrow
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-12-25**] 07:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2149-12-21**] 01:28 PM
   20 Gauge - [**2149-12-24**] 04:04 PM
   PICC Line - [**2149-12-25**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2149-12-26 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose
   24 Hour Events:
   -PICC LINE - START [**2149-12-25**] 09:00 AM
   -EKG - At [**2149-12-25**] 12:09 PM
   -MRSA speciated with [**Last Name (un) 46**] to vanc and Bactrim
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-25**] 08:00 AM
   Vancomycin - [**2149-12-25**] 08:01 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-12-25**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2149-12-26**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (78 - 99) bpm
   BP: 128/72(96) {85/58(77) - 139/79(104)} mmHg
   RR: 33 (17 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,893 mL
                                                                    364 mL
   PO:
             TF:
                                                                    760 mL
                                                                    188 mL
   IVF:
                                                                  1,043 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                    440 mL
   Urine:
                                                                  2,870 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 334 (331 - 474) mL
   PS : 14 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.41/43/99.[**Numeric Identifier **]/25/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Patient responds to voice, command when weaned from propofol.  She has
   some LE edema, bilateral crackles and wheezes.  Her R eye is 4mm and
   her L eye is 3mm.  Both are reactive to light, although sluggish.
   Bilateral Babinski present
   Labs / Radiology
   100 K/uL
   8.8 g/dL
   105 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   15 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   8.4 K/uL
        [image002.jpg]
                            [**2149-12-23**]  07:06 PM
                            [**2149-12-24**]  02:54 AM
                            [**2149-12-24**]  03:33 AM
                            [**2149-12-24**]  03:19 PM
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
                            [**2149-12-25**]  03:00 PM
                            [**2149-12-25**]  03:07 PM
                            [**2149-12-26**]  12:40 AM
                            [**2149-12-26**]  03:54 AM
   WBC
   11.0
   8.7
   8.4
   Hct
   28.0
   27.8
   26.5
   Plt
   104
   101
   100
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   27
   25
   24
   26
   27
   28
   Glucose
   108
   107
   94
   105
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:75/190, Alk Phos /
   T Bili:78/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:0.7
   mmol/L, LDH:695 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   Patient
s PCP has been told about condition and states that she did not
   prescribe this for her.  Must have been an old scrip.  Liver enzymes
   continue to trend down.
   - Appreciate any further tox recs
   - Q24h ABG and EKG and electrolytes
   - Seizure management.
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia (corrected).  Precordial negative
   concordance and axis change most suspicious for VT.  Also consider
   sinus tach with QRS widening from TCAs.  VT can be seen severe TCA
   overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+)  [**Last Name (un) 46**] to vanc.  Not passing
   RISBI
   - vanc continued and cefipime stopped. The last day of treatment will
   be the 16^th of [**Month (only) **].
   - IV lasix 20mg today.  Her goal  is negative 1L
   - Plan to wean from vent as tolerates
   .
   # Combined respiratory/metabolic alkalosis.  With superimposed
   metabolic acidosis due to TCAs and lactate.
   - Q12H ABG and lytes.
   - Vent changes prn.
   .
   # Hypernatremia (corrected).  Iatrogenic from multiple IV infusions of
   hypertonic fluids.
   - CTM
   .
   # Hypokalemia (corrected).  As above.  From extra to intracellular
   potassium shifts with alkalemic pH.
   - CTM
   .
   # Fever (corrected).  Upon arrival to MICU.  Blood cultures drawn in
   ED.  CXR with pneumonia and drug overdose.  Likely both are
   contributory.
   - f/u cultures.
   .
   FEN: replete electrolytes, tube feeds, bowel regime
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals X2; PICC placed today
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement

2149-12-26 09:47:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: TCA overdose, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   failed RSBI
   Sputum with MRSA
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-25**] 08:00 AM
   Vancomycin - [**2149-12-25**] 08:01 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-12-25**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2149-12-26**] 12:02 AM
   Other medications:
   SQH, H2B, vanco, cefepime, propofol, CHG
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-26**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 87 (78 - 92) bpm
   BP: 131/73(97) {109/58(78) - 143/80(106)} mmHg
   RR: 27 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,893 mL
                                                                    327 mL
   PO:
             TF:
                                                                    760 mL
                                                                     46 mL
   IVF:
                                                                  1,043 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                    880 mL
   Urine:
                                                                  2,870 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (327 - 474) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.41/43/99.[**Numeric Identifier **]/25/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Eyes / Conjunctiva: right pupil remains a bit larger; both reactive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   100 K/uL
   105 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   15 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   8.4 K/uL
        [image002.jpg]
                            [**2149-12-23**]  07:06 PM
                            [**2149-12-24**]  02:54 AM
                            [**2149-12-24**]  03:33 AM
                            [**2149-12-24**]  03:19 PM
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
                            [**2149-12-25**]  03:00 PM
                            [**2149-12-25**]  03:07 PM
                            [**2149-12-26**]  12:40 AM
                            [**2149-12-26**]  03:54 AM
   WBC
   11.0
   8.7
   8.4
   Hct
   28.0
   27.8
   26.5
   Plt
   104
   101
   100
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   27
   25
   24
   26
   27
   28
   Glucose
   108
   107
   94
   105
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:40/28, Alk Phos / T
   Bili:89/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:0.7
   mmol/L, LDH:695 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 POISONING / OVERDOSE, OTHER
   44-year-old woman with
          TCA overdose
 now past acute phase (had been very
          Respiratory Failure
   o         Treat VAP
   o         Diurese goal -1000
          MRSA VAP
   o         Continue vancomycin x 8d course (until [**12-29**])
   o         Stop other antibiotics
          Anemia
   o         Follow
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2149-12-21**] 01:28 PM
   20 Gauge - [**2149-12-24**] 04:04 PM
   PICC Line - [**2149-12-25**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min
   Patient is critically ill

2149-12-27 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2149-12-26**] 10:09 PM
 URINE CULTURE - At [**2149-12-26**] 10:10 PM
 SPUTUM CULTURE - At [**2149-12-27**] 04:31 AM
 FEVER - 101.7
F - [**2149-12-26**] 08:00 PM
   20 IV Lasix today
   Note to team: [**12-29**] will be 10 days of Vanc
   RSBI 286 this am.
   Still very anxious and agitated, can follow commands
   Need to f/u with Toxicology re: what's the best sedation for her given
   the TCA overdose --> Precedex?
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2149-12-26**] 08:00 AM
   Vancomycin - [**2149-12-26**] 08:10 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-12-26**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2149-12-27**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.4
C (99.3
   HR: 89 (71 - 90) bpm
   BP: 107/54(74) {103/54(74) - 148/81(203)} mmHg
   RR: 32 (21 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,654 mL
                                                                    313 mL
   PO:
             TF:
                                                                    414 mL
                                                                     33 mL
   IVF:
                                                                  1,210 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  4,955 mL
                                                                    700 mL
   Urine:
                                                                  4,955 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,301 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 319 (91 - 327) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 286
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   Gen : Middle aged female, intubated, responding to questions, following
   commands appropriately
   HEENT: MMM, sclera anicteric
   CV: RRR no M/R/G
   Lungs: faint crackles at bases
   [**Last Name (un) 110**]: NABS, soft, ND, mildly tender no guarding
   Extrem: no edema/erythema
   Labs / Radiology
   166 K/uL
   8.9 g/dL
   96 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   105 mEq/L
   140 mEq/L
   25.9 %
   11.8 K/uL
        [image002.jpg]
                            [**2149-12-24**]  03:33 AM
                            [**2149-12-24**]  03:19 PM
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
                            [**2149-12-25**]  03:00 PM
                            [**2149-12-25**]  03:07 PM
                            [**2149-12-26**]  12:40 AM
                            [**2149-12-26**]  03:54 AM
                            [**2149-12-26**]  05:56 PM
                            [**2149-12-27**]  03:45 AM
   WBC
   8.7
   8.4
   11.8
   Hct
   27.8
   26.5
   25.9
   Plt
   101
   100
   166
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   24
   26
   27
   28
   Glucose
   107
   94
   105
   96
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:40/28, Alk Phos / T
   Bili:89/0.5, Amylase / Lipase:59/28, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:0.7
   mmol/L, LDH:695 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 POISONING / OVERDOSE, OTHER
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   #Fever: Patient febrile overnight. Pan cultured. WBC count trending up.
   If continuing febrile will need to consider d/c PICC line, although
   this was started on [**12-25**], so fairly new.
   - f/u cultures.
   #?[**Last Name (un) 110**] pain: Appears to have abdominal pain on exam, has not yet had
   bowel movement. NABS.
   -KUB
   -Bowel regimen
   -Recheck LFTs, amylase and lipase in the setting of abdominal pain and
   fever
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+)  [**Last Name (un) 46**] to vanc.  Not passing
   RISBI
   - vanc continued and cefipime stopped. The last day of treatment will
   be the 16^th of [**Month (only) **].
   - IV lasix 20mg today.  Her goal  is negative 1L
   - Plan to wean from vent as tolerates
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   Patient
s PCP has been told about condition and states that she did not
   prescribe this for her.  Must have been an old scrip.  Liver enzymes
   continue to trend down.
   - Appreciate any further tox recs
   - Q24h ABG and EKG and electrolytes
   - Seizure management.
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia (corrected).  Precordial negative
   concordance and axis change most suspicious for VT.  Also consider
   sinus tach with QRS widening from TCAs.  VT can be seen severe TCA
   overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   - TCA management as above.
   .
   .
   FEN: replete electrolytes, tube feeds, bowel regimen
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals X2; PICC placed today
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2149-12-21**] 01:28 PM
   20 Gauge - [**2149-12-24**] 04:04 PM
   PICC Line - [**2149-12-25**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-12-28 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: TCA overdose
   24 Hour Events:
   RSBI of 143.
   Spiked a fever again last night, but not cultured because of recent
   pan-culture
   Sputum yesterday growing gm (+) cocci
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2149-12-26**] 08:00 AM
   Vancomycin - [**2149-12-27**] 08:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-12-28**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-12-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 87 (78 - 89) bpm
   BP: 133/75(99) {97/49(68) - 143/82(108)} mmHg
   RR: 29 (16 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,363 mL
                                                                    223 mL
   PO:
             TF:
                                                                     33 mL
   IVF:
                                                                  1,060 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                    570 mL
   Urine:
                                                                  3,760 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,397 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (270 - 367) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 143
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   273 K/uL
   8.5 g/dL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   11 mg/dL
   105 mEq/L
   141 mEq/L
   24.3 %
   11.8 K/uL
        [image002.jpg]
                            [**2149-12-25**]  03:04 AM
                            [**2149-12-25**]  03:42 AM
                            [**2149-12-25**]  03:00 PM
                            [**2149-12-25**]  03:07 PM
                            [**2149-12-26**]  12:40 AM
                            [**2149-12-26**]  03:54 AM
                            [**2149-12-26**]  05:56 PM
                            [**2149-12-27**]  03:45 AM
                            [**2149-12-27**]  05:35 PM
                            [**2149-12-28**]  04:17 AM
   WBC
   8.7
   8.4
   11.8
   11.8
   Hct
   27.8
   26.5
   25.9
   24.3
   Plt
   101
   100
   166
   273
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   26
   27
   28
   Glucose
   107
   94
   105
   96
   95
   92
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:32/21, Alk Phos / T
   Bili:92/0.3, Amylase / Lipase:101/117, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:0.7
   mmol/L, LDH:250 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   #Fever: Patient febrile overnight. Pan cultured. WBC count trending up.
   If continuing febrile will need to consider d/c PICC line, although
   this was started on [**12-25**], so fairly new.  Last strain sensitive to
   levaquin, bactrim, and gentamicin as well as vancomycin.  Sputum with
   gram (+) cocci, all other cultures NTD
   - continue vancomycin
   - continue to follow cultures
   - stop any unnecessary medications for possible drug fever.
   .
   #Pancreatitis: patient had abdominal pain on exam and was found to have
   pancreatitis.  This could be due to Propofol and needs to be stopped
   when possible.
   - NPO
   - Change Propofol to precidex + midaz  + fentanyl
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+)  [**Last Name (un) 46**] to vanc.  Not passing
   RISBI
   - last day of vanc will be the 16^th of [**Month (only) **]
   - Continue SBT attempts; increased secretions today so no attempt to
   actively wean
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   Patient
s PCP has been told about condition and states that she did not
   prescribe this for her.  Must have been an old scrip.  Liver enzymes
   continue to trend down.
   - Appreciate any further tox recs
   - Q24h ABG and EKG and electrolytes
   - Seizure management.
   .
   # Seizure.  Most likely from TCA overdose and GABA receptor antagonist
   activity.  No prior history of seizures known.
   - Benzos prn breakthrough seizure.
   .
   # Wide complex tachycardia (corrected).  Precordial negative
   concordance and axis change most suspicious for VT.  Also consider
   sinus tach with QRS widening from TCAs.  VT can be seen severe TCA
   overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
   .
   Depression: patient is clearly upset and teary-eyed when sedation
   weaned.  Asked tox about starting anti-depressant.  Were not worried
   about drug interaction, but feel it is more of a psych question.  Psych
   rec not starting any antidepressant until off vent and able to be
   properly evaluated.
   .
   FEN: replete electrolytes, NPO, bowel regimen
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals X2; PICC
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement

2149-12-30 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cephalic vein clot in LUE --> d/c'd the L PICC and put in order for R
   PICC to be placed
   - R PICC was placed, then pt had some runs of Vtach, rads stating PICC
   in R atrium, so PICC was pulled back 2cm.
   - ENT consulted: didn't see bc we had no plans to intubate her, but
   will keep her on their radar.
   - f/u psychiatry: needs 1:1, is section 12, cannot leave AMA,
   anticipate Psych admit, hold anti-depressants, caution with benzos or
   opioids, can use low dose Haldol 1-2mg IV prn agitation but check QTc
   with repeat doses
   - on decadron for stridor
   - vanc level low so changed to Q8hrs.
   - UOP good, net -500 for the day
   - BP rising in the am to 170-180's.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-12-29**] 11:44 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-12-29**] 08:10 PM
   Lorazepam (Ativan) - [**2149-12-30**] 04:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-30**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 85 (70 - 111) bpm
   BP: 152/72(89) {123/19(28) - 182/125(133)} mmHg
   RR: 20 (10 - 102) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    833 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    653 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    500 mL
   Urine:
                                                                  1,260 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -427 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   479 K/uL
   8.8 g/dL
   114 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   16 mg/dL
   100 mEq/L
   135 mEq/L
   25.5 %
   14.0 K/uL
        [image002.jpg]
                            [**2149-12-26**]  03:54 AM
                            [**2149-12-26**]  05:56 PM
                            [**2149-12-27**]  03:45 AM
                            [**2149-12-27**]  05:35 PM
                            [**2149-12-28**]  04:17 AM
                            [**2149-12-28**]  10:46 PM
                            [**2149-12-29**]  03:33 AM
                            [**2149-12-29**]  03:54 AM
                            [**2149-12-29**]  03:32 PM
                            [**2149-12-30**]  03:57 AM
   WBC
   8.4
   11.8
   11.8
   10.4
   14.0
   Hct
   26.5
   25.9
   24.3
   25.7
   25.5
   Plt
   100
   166
   273
   394
   479
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.4
   0.4
   0.4
   TCO2
   33
   33
   Glucose
   105
   96
   95
   92
   90
   91
   153
   114
   Other labs: PT / PTT / INR:12.5/34.0/1.1, ALT / AST:32/21, Alk Phos / T
   Bili:92/0.3, Amylase / Lipase:378/613, Differential-Neuts:78.2 %,
   Band:0.0 %, Lymph:18.5 %, Mono:1.4 %, Eos:1.4 %, Lactic Acid:0.7
   mmol/L, LDH:250 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   44F with depression and EtOH abuse, s/p severe TCA overdose.  Multiple
   seizures with significant QRS widening and ECG changes.
   .
   # Respiratory failure/VAP.  Intubated in field due to mental status
   from med related CNS depression likely.  Sputum and mini-BAL positive
   for gram (+) cocci in clusters. MRSA (+) [**Last Name (un) 46**] to vanc.  Weaned from
   vent, currently on face tent at 12L
   - Continue vanc for 7 more days (last day [**1-5**]) because still growing
   MRSA in sputum on [**12-27**]
   - standing nebs, racemic epi PRN, and reconsider decadron today if
   still stridorous
   - ENT on board if needs to be intubated again.  Did not see yesterday.
   .
   #Fever: Patient afebrile overnight. WBC increased. Last strain of MRSA
   sensitive to levaquin, bactrim, and gentamicin as well as vancomycin.
   Sputum with MRSA all other cultures NTD.  WBC count likely d/t
   decadron.
   - continue vancomycin for 7 more days which makes end date [**1-5**]
   - stop any unnecessary medications for possible drug fever.
   .
   #Pancreatitis: patient had abdominal pain on exam and was found to have
   pancreatitis.  This could be due to Propofol and was stopped.  Her
   pancreatic enzymes have been trending up.  We will no longer measure
   for the time being and go by physical exam.
   - Serial abdominal exams now that off vent
   -If need to reintubate, do not use propofol
   - NPO
   .
   # TCA overdose.  Doxepin found on scene.  Fits clinical scenario with
   CNS depression, widened QRS, seizure, hypotension initially at OSH.
   Received hypertonic Na and IV bicarb to overcome fast Na channel
   antagonism, intralipid bolus for improving volume of distribution.
   Patient
s PCP has been told about condition and states that she did not
   prescribe this for her.  Must have been an old scrip.  Liver enzymes
   continue to trend down.
   - Appreciate any further tox recs.
   .
   #Depression: patient is clearly upset and teary-eyed.  Asked tox about
   starting anti-depressant.  Were not worried about drug interaction, but
   feel it is more of a psych question.  Psych was consulted yesterday.
   Psych recommendations are as follows:
-Continue 1:1 sitter
-Anticipate psych admit when medically cleared, patient cannot leave AMA
-Hold anti-depressants at this time
-Use caution when administering benzodiazepines and opioids as these may worsen
delirium
-Can use low dose Haldol 1-2 mg IV PRN agitation; monitor QTc with repeat dosing
   .
   # Wide complex tachycardia (corrected).  Precordial negative
   concordance and axis change most suspicious for VT.  Also consider
   sinus tach with QRS widening from TCAs.  VT can be seen severe TCA
   overdose.
   - Continue to monitor on telemetry.
   - s/p lidocaine bolus of 100mg; rebolus and gtt at this point if
   recurs.
    .
   FEN: replete electrolytes, NPO, bowel regimen
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals X2; PICC
   Code:  Presumed full
   Communication: [**Name (NI) **] husband [**Name (NI) **];
   Disposition: pending clinical improvement
   Lines:  PICC Line - [**2149-12-29**] 04:19 PM